US08633313B2
To a stirred suspension of ethyl 2,4-dichloro-1,5-naphthyridine-3-carboxylate (1.0 g, 3.69 mmol) in acetonitrile:water (7 mL:2 mL) was added Pd (PPh3)4 (0.426 g, 0.369 mmol), 3-fluorophenylboronic acid (0.568 g, 4.06 mmol) and sodium carbonate (0.782 g, 7.38 mmol) and the reaction was heated at reflux for 6 h. After this time the reaction was cooled to rt and partitioned between EtOAc (80 mL) and water (30 mL). The separated organic layer was dried over MgSO4, filtered and concentrated in vacuo. The mixture was purified by column chromatography on silica gel using a gradient from 1:0 to 4:1 of hexane:EtOAc to give ethyl 4-chloro-2-(3-fluorophenyl)-1,5-naphthyridine-3-carboxylate as a white solid: LC-MS (ESI) m/z 331.0 [M+H]+.

reactant | ethyl 2,4-dichloro-1,5-naphthyridine-3-carboxylate | 3.69 mmol, 1.0 g | ClC1=NC2=CC=CN=C2C(=C1C(=O)OCC)Cl | C11H8Cl2N2O2
reactant | water | 7 mL | O | H2O
reactant | 3-fluorophenylboronic acid | 4.06 mmol, 0.568 g | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 7.38 mmol, 0.782 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | Pd (PPh3)4 | 0.369 mmol, 0.426 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 4-chloro-2-(3-fluorophenyl)-1,5-naphthyridine-3-carboxylate | ClC1=C(C(=NC2=CC=CN=C12)C1=CC(=CC=C1)F)C(=O)OCC | C17H12ClFN2O2
